US06172057B2
4-(4-n-Butoxy-benzenesulfonyl)-1-(3-phenoxy-propyl)-piperidine-4-carboxylic acid was prepared starting from 4(4-n-Butoxy-benzenesulfonyl)-1-(3-phenoxy-propyl)-piperidine-4-carboxylic acid ethyl ester (4.0 g, 7.9 mmol) dissolved in THF:Methanol 3:1 and 10 N NaOH (40 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 3.0 g (79%); off white powder, mp 191° C.; MS: 476.5 (M+H)+.

reactant | 4(4-n-Butoxy-benzenesulfonyl)-1-(3-phenoxy-propyl)-piperidine-4-carboxylic acid ethyl ester | 7.9 mmol, 4.0 g | C(C)OC(=O)C1(CCN(CC1)CCCOC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C27H37NO6S
solvent | THF Methanol | C1CCOC1.CO
solvent | NaOH | 10 N, 40 ml | [OH-].[Na+]
product | 4-(4-n-Butoxy-benzenesulfonyl)-1-(3-phenoxy-propyl)-piperidine-4-carboxylic acid | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CCCOC1=CC=CC=C1)C(=O)O | C25H33NO6S
